US09428528B2
Step 2 Preparation of (4S,5R)-tert-butyl 5-(4-(5-fluoro-6-(methyl-sulfonamido-methyl)pyridin-3-yl)phenyl)-4-(fluoromethyl)-2,2-dimethyl-oxazolidine-3-carboxylate
(4S,5R)-tert-butyl-5-(4-(6-cyano-5-fluoropyridin-3-yl)phenyl)-4-(fluoromethyl)-2,2-dimethyloxazolidine-3-carboxylate (1440 mg, 3.4 mmol) in methanol (25 mL) at 5° C. is treated with NiCl2 (80 mg, 0.34 mmol) and then sodium borohydride (380 mg, 10 mmol) is added in portions. The mixture is stirred for 1 hour at room temperature, concentrated to remove the methanol, quenched with aqueous sodium bicarbonate and extracted with ethyl acetate. The organics are dried over anhydrous sodium sulfate, filtered, and concentrated to an oil. The oil is dissolved in dichloromethane (5 mL), cooled to 5° C. and treated with diisopropylethylamine (0.88 mL, 5.0 mmol) and methanesulfonyl chloride (0.30 mL, 3.7 mmol) and stirred for 2 hours at room temperature. The mixture is concentrated and chromatographed on silica eluting with ethyl acetate in heptane to give the title compound. 1H NMR (400 MHz, CDCl3) 1.53 (s, 9H), 1.63 (s, 3H), 1.75 (s, 3H), 3.80-4.00 (m, 1H), 4.40-4.50 (m, 0.5H), 4.55-4.65 (m, 2.5H), 5.22 (d, 1H, J=7.33 Hz), 5.72 (bs, 1H), 7.60-7.70 (m, 5H), 8.63 (s, 1H). m/z (CI) M+H 512.

reactant | (4S,5R)-tert-butyl-5-(4-(6-cyano-5-fluoropyridin-3-yl)phenyl)-4-(fluoromethyl)-2,2-dimethyloxazolidine-3-carboxylate | 3.4 mmol, 1440 mg | C(C)(C)(C)OC(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)C=1C=NC(=C(C1)F)C#N)(C)C | C23H25F2N3O3
reactant | sodium borohydride | 10 mmol, 380 mg | [BH4-].[Na+]
reactant | diisopropylethylamine | 5.0 mmol, 0.88 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 3.7 mmol, 0.30 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | methanol | 25 mL | CO | CH4O
catalyst | NiCl2 | 0.34 mmol, 80 mg | Cl[Ni]Cl
product | (4S,5R)-tert-butyl 5-(4-(5-fluoro-6-(methyl-sulfonamido-methyl)pyridin-3-yl)phenyl)-4-(fluoromethyl)-2,2-dimethyl-oxazolidine-3-carboxylate | FC=1C=C(C=NC1CNS(=O)(=O)C)C1=CC=C(C=C1)[C@@H]1[C@H](N(C(O1)(C)C)C(=O)OC(C)(C)C)CF | C24H31F2N3O5S
